US09340754B2
A solution of styrene in 2-butanol (20% by weight, 100 g/h) was pumped continuously at an average temperature of 390° C. in the reactor through the laboratory plant. The conversion of styrene was 84.0% and, in the steady state, 14.7 g/h of 3-methyl-1-phenyl-3-pentanol were obtained.

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | 2-butanol | CC(CC)O | C4H10O
product | 3-methyl-1-phenyl-3-pentanol | CC(CCC1=CC=CC=C1)(CC)O | C12H18O
